US06015825
(vi) (2R,3S)-2-(2,4-Difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3-[4-(1H-1,2,3-triazol-4-yl)phenyl]-2-butanol
(R)-3-(4-[1-Benzyl-1H-1,2,3-triazol-5-yl]phenyl)-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3-buten-2-ol (25.0 g, 0.05 moles) was dissolved in methanol (2400 ml) and hydrogenated at 100° C., 60 psi with 5% Pd/C for 20 hours. After catalyst removal by filtration the product solution was concentrated to a white foam (19.1 g, 0.05 moles). A sample was crystallised from ethanol/water and characterised by 1H NMR spectroscopy. It had an m.p. of 121° C.

reactant | (R)-3-(4-[1-Benzyl-1H-1,2,3-triazol-5-yl]phenyl)-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3-buten-2-ol | 0.05 moles, 25.0 g | C(C1=CC=CC=C1)N1N=NC=C1C1=CC=C(C=C1)C([C@@](CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)=C | C27H22F2N6O
solvent | methanol | 2400 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | (2R,3S)-2-(2,4-Difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3-[4-(1H-1,2,3-triazol-4-yl)phenyl]-2-butanol | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)C1=CC=C(C=C1)C=1N=NNC1)O | C20H18F2N6O
